US07696213B2
2-Amino-6-(2-hydroxypyrimidin-5-yl)-4-methyl-8-(tetrahydro-2H-pyran-4-yl)pyrido[2,3-d]pyrimidin-7(8H)-one (Compound 267)
A mixture of 2-amino-6-(2-methoxypyrimidin-5-yl)-4-methyl-8-(tetrahydro-2H-pyran-4-yl)pyrido-[2,3-d]pyrimidin-7(8H)-one (42.2 mg, 0.115 mmol), TMSI (0.10 mL, 0.70 mmol), and dry acetonitrile (2.3 mL) was heated at 82° C. for 1 h. After being cooled to room temperature, the mixture was treated with 20% NH4OH solution and concentrated. The mixture was purified by analytical group (HPLC) to give the title compound (12 mg, 30%).

reactant | 2-amino-6-(2-methoxypyrimidin-5-yl)-4-methyl-8-(tetrahydro-2H-pyran-4-yl)pyrido-[2,3-d]pyrimidin-7(8H)-one | 0.115 mmol, 42.2 mg | NC=1N=C(C2=C(N1)N(C(C(=C2)C=2C=NC(=NC2)OC)=O)C2CCOCC2)C | C18H20N6O3
reactant | TMSI | 0.70 mmol, 0.10 mL | [Si](C)(C)(C)I | C3H9ISi
reactant | NH4OH | [NH4+].[OH-]
solvent | acetonitrile | 2.3 mL | C(C)#N | C2H3N
product | 2-Amino-6-(2-hydroxypyrimidin-5-yl)-4-methyl-8-(tetrahydro-2H-pyran-4-yl)pyrido[2,3-d]pyrimidin-7(8H)-one | 12 mg, 30% | NC=1N=C(C2=C(N1)N(C(C(=C2)C=2C=NC(=NC2)O)=O)C2CCOCC2)C | C17H18N6O3
